US04387100
In a manner analogous to that described in Example 1(b), from 1-benzyloxy-4-(2-bromoethoxy)benzene and 1H-1,2,4-triazole, 4-[2-(1H-1,2,4-triazol-1-yl)ethoxy]phenol was obtained.

reactant | 1-benzyloxy-4-(2-bromoethoxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCBr | C15H15BrO2
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 4-[2-(1H-1,2,4-triazol-1-yl)ethoxy]phenol | N1(N=CN=C1)CCOC1=CC=C(C=C1)O | C10H11N3O2
